US04069387
3. Dimethyl 2-oxo-3-chloro-7-(2-tetrahydropyranyloxy)-heptylphosphonate
Under an atmosphere of nitrogen, a solution of 4.2 g. of dimethyl 2-oxo-7-(2-tetrahydropyranyloxy)-heptylphosphonate (prepared as described above) in 15 ml. of tetrahydrofuran was added to a suspension of 596 mg. of sodium hydride (63% content) in 20 ml. of tetrahydrofuran at room temperature, and the mixture was stirred at the same temperature for 30 minutes. After cooling to 0° C., 14 ml. of a 1.3M solution of n-butyllithium in n-hexane were added to the solution and the mixture was stirred at 0° C. for 30 minutes. After cooling the solution to -78° C., there was added a solution of 3.23 g. of benzenesulphonyl chloride in 10 ml. of tetrahydrofuran. The mixture was stirred at -78° C. for one hour and then at room temperature for one hour. The reaction mixture was acidified to pH 3 with acetic acid and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with water, dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and benzene (5:1) as eluent to give 2.97 g. of the title compound having the following physical characteristics:-

reactant | dimethyl 2-oxo-7-(2-tetrahydropyranyloxy)-heptylphosphonate | O=C(CP(OC)(OC)=O)CCCCCOC1OCCCC1 | C14H27O6P
reactant | sodium hydride | [H-].[Na+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | n-hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Dimethyl 2-oxo-3-chloro-7-(2-tetrahydropyranyloxy)-heptylphosphonate | O=C(CP(OC)(OC)=O)C(CCCCOC1OCCCC1)Cl | C14H26ClO6P
